US04892872
A solution of 10.5 g of 6-chloro-3,4-dihydro-4-methyl-3-oxo-N-(3-quinuclidinyl)-2H-1,4-benzoxazine-8-carboxamide in 50 ml of concentrated sulfuric acid is cooled to a temperature below 0° C., and a mixture of 1.5 ml of fuming nitric acid (d 1.50) and 1.5 ml of concentrated sulfuric acid is added dropwise thereto at a temperature below 5° C. The resultant mixture is stirred under ice-cooling for 1.5 hours and poured into ice-cold water. After extracting with ethyl acetate, the extract is washed with water and dried over magnesium sulfate. The solvent is distilled off followed by recrystallizing from ethanol and treating with ethanolic hydrochloric acid to give 6-chloro-3,4-dihydro-4-methyl-7-nitro-3-oxo-N-(quinuclidinyl)-2H-1,4-benzoxazine-8-carboxamide hydrochloride hemihydrate. The melting point and NMR spectra are identical with those of the compound as prepared in Example 30(1).

reactant | 6-chloro-3,4-dihydro-4-methyl-3-oxo-N-(3-quinuclidinyl)-2H-1,4-benzoxazine-8-carboxamide | 10.5 g | ClC=1C=C(C2=C(N(C(CO2)=O)C)C1)C(=O)NC1CN2CCC1CC2 | C17H20ClN3O3
reactant | nitric acid | 1.5 ml | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 1.5 ml | S(O)(O)(=O)=O | H2O4S
product | 6-chloro-3,4-dihydro-4-methyl-7-nitro-3-oxo-N-(quinuclidinyl)-2H-1,4-benzoxazine-8-carboxamide hydrochloride hemihydrate | O.Cl.ClC=1C(=C(C2=C(N(C(CO2)=O)C)C1)C(=O)NC1N2CCC(C1)CC2)[N+](=O)[O-].ClC=2C(=C(C1=C(N(C(CO1)=O)C)C2)C(=O)NC2N1CCC(C2)CC1)[N+](=O)[O-].Cl | InChI=1S/2C17H19ClN4O5.2ClH.H2O/c2*1-20-11-7-10(18)15(22(25)26)14(16(11)27-8-13(20)23)17(24)19-12-6-9-2-4-21(12)5-3-9;;;/h2*7,9,12H,2-6,8H2,1H3,(H,19,24);2*1H;1H2
